US04871655
Synthesis of 2-(2-carboxyethylamino)carbonyl-4-nitro-1-naphthol
1,500 ml of ethanol was added to a solution of 56.8 g of potassium hydroxide dissolved in 100 cc of water. 47 g of β-alanine was dissolved into this mixture, and then 132 g of 4-nitro-2-phenoxycarbonyl-1-naphthol was suspended, followed by reflux for 4 hours. After the reaction was completed, the solution was cooled, followed, by filtration of crystal. The obtained crystal was dissolved in 4,000 ml of water. After the insolubles were filtered off, the aqueous solution was neutralized with hydrochloric acid to give yellow crystals. Recrystallization from 5,000 ml of ethanol gave the desired product at a yield of 70%.

reactant | ethanol | 1,500 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 56.8 g | [OH-].[K+]
reactant | β-alanine | 47 g | NCCC(=O)O | C3H7NO2
reactant | 4-nitro-2-phenoxycarbonyl-1-naphthol | 132 g | [N+](=O)([O-])C1=CC(=C(C2=CC=CC=C12)O)C(=O)OC1=CC=CC=C1 | C17H11NO5
solvent | water | 100 cc | O | H2O
product | 2-(2-carboxyethylamino)carbonyl-4-nitro-1-naphthol | yield of 70% | C(=O)(O)CCNC(=O)C1=C(C2=CC=CC=C2C(=C1)[N+](=O)[O-])O | C14H12N2O6
